US05102667
N,N'-Carbonyldiimidazole (1.14 g) is added to a solution of 2,5-dimethoxyphenylacetic acid (1.34 g) in dry dichloromethane (30 cc), cooled to +5° C. The mixture is stirred for 30 minutes at +5° C. and a solution of (3aRS,7aRS)-7,7-diphenyl-4-perhydroisoindolone hydrochloride (2.28 g) and triethylamine (1.96 cc) in dichloromethane (20 cc) is then added. The reaction mixture is stirred at 20° C. for 16 hours, then washed with water (2×200 cc), dried over magnesium sulphate and filtered and the filtrate is concentrated to dryness under reduced pressure (2.7 kPa). The meringue obtained is crystallized from a mixture of acetonitrile (20 cc) and isopropyl ether (80 cc). The crystals are drained, washed with isopropyl ether (25 cc) and dried. (3aRS,7aRS)-7,7-diphenyl-2-[(2,5-dimethoxyphenyl)acetyl]-4-perhydroisoindolone (1.5 g) is obtained in the form of white crystals melting at 209° C.

reactant | 2,5-dimethoxyphenylacetic acid | 1.34 g | COC1=C(C=C(C=C1)OC)CC(=O)O | C10H12O4
reactant | (3aRS,7aRS)-7,7-diphenyl-4-perhydroisoindolone hydrochloride | 2.28 g | Cl.C1(=CC=CC=C1)C1(CCC(C2CNCC12)=O)C1=CC=CC=C1
reactant | triethylamine | 1.96 cc | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 cc | ClCCl | CH2Cl2
solvent | dichloromethane | 20 cc | ClCCl | CH2Cl2
product | (3aRS,7aRS)-7,7-diphenyl-2-[(2,5-dimethoxyphenyl)acetyl]-4-perhydroisoindolone | 1.5 g | C1(=CC=CC=C1)C1(CCC(C2CN(CC12)C(CC1=C(C=CC(=C1)OC)OC)=O)=O)C1=CC=CC=C1 | C30H31NO4
